US05616596
To a stirred -78° C. solution of 3-bromobenzaldehyde diethyl acetal, prepared as in step 1, (1.0 g, 3.8 mmol) in THF (10 mL) was added n-butyllithium (1.7 mL, 4.25 mmol, 2.5M in hexanes). The cold reaction mixture was stirred 0.5 hours followed by the addition of a THF (5 mL) solution of iodine (1.09 g, 4.25 mmol). The ice bath was removed and the reaction allowed to warm to ambient temperature. Saturated NH4Cl was added and the mixture diluted with hexanes. The organic layer was washed with brine, dried (MgSO4) and concentrated under reduced pressure to give a residue which was purified by column chromatography on silica gel eluting with 5% ethyl acetate-hexanes to afford 1.0 g of 3-iodobenzaldehyde diethyl acetal.

reactant | 3-bromobenzaldehyde diethyl acetal | C(C)OC(C1=CC(=CC=C1)Br)OCC | C11H15BrO2
reactant | n-butyllithium | 4.25 mmol, 2.5M, 1.7 mL | C(CCC)[Li]
reactant | iodine | 4.25 mmol, 1.09 g | II | I2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-iodobenzaldehyde diethyl acetal | 1.0 g | C(C)OC(C1=CC(=CC=C1)I)OCC | C11H15IO2
